US08703761B2
A. (2-Amino-4-trifluoromethyl-thiazol-5-yl)-(4-fluoro-phenyl)-methanone
A mixture of 4,4,4-Trifluoro-1-(4-fluoro-phenyl)-butane-1,3-dione (15 g, 64 mmol) and NBS (11.4 g, 64.1 mmol) was ground together at RT, which incited to give a homogeneous mixture and then solidified to give crude brominated product. Water was added to rinse the solid. The solid was taken up in ethanol (50 mL), and thiourea (4.9 g, 64 mmol) was added. The mixture was heated at 85° C. for 4 h, cooled to RT and partitioned between ethyl acetate and aq. K2CO3. The organic extract was dried over MgSO4, concentrated and chromatographed to give the title compound. m/z 291.0 (MH+).

reactant | 4,4,4-Trifluoro-1-(4-fluoro-phenyl)-butane-1,3-dione | 64 mmol, 15 g | FC(C(CC(=O)C1=CC=C(C=C1)F)=O)(F)F | C10H6F4O2
reactant | NBS | 64.1 mmol, 11.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | thiourea | 64 mmol, 4.9 g | NC(=S)N | CH4N2S
solvent | Water | O | H2O
product | (2-Amino-4-trifluoromethyl-thiazol-5-yl)-(4-fluoro-phenyl)-methanone | NC=1SC(=C(N1)C(F)(F)F)C(=O)C1=CC=C(C=C1)F | C11H6F4N2OS
